US08754079B2
IV.3. trans-N-[4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-methanesulfonamide
120 μl methansulfonyl chloride were added to an ice cooled suspension of 300 mg trans-4-(5-fluoro-2-nitro-phenoxy)-cyclohexylamine hydrochloride and 431 μl triethylamine in 5 ml methylene chloride. The reaction mixture was allowed to warm up slowly to rt over night. Then the mixture was diluted with methylene chloride and washed with 10% potassium hydrogen sulfate. The mixture was filtered through a hydrophobic frit and evaporated. The residue was triturated with ether.

reactant | methansulfonyl chloride | 120 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-4-(5-fluoro-2-nitro-phenoxy)-cyclohexylamine hydrochloride | 300 mg | Cl.FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)N)C1)[N+](=O)[O-]
reactant | triethylamine | 431 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | trans-N-[4-(5-Fluoro-2-nitro-phenoxy)-cyclohexyl]-methanesulfonamide | FC=1C=CC(=C(O[C@@H]2CC[C@H](CC2)NS(=O)(=O)C)C1)[N+](=O)[O-] | C13H17FN2O5S
